### PR TITLE
the extension of a Holder map is Holder

### PR DESCRIPTION
**Pull request by EtienneC30**

### CODE REVIEW

File: BrownianMotion/Auxiliary/Topology.lean [hunk 1]
```diff
@@ -0,0 +1,33 @@
...
+open scoped NNReal ENNReal Topology
+
+variable {X Y : Type*} [PseudoEMetricSpace X] [PseudoEMetricSpace Y] [CompleteSpace Y]
+    {C r : ℝ≥0} {s : Set X} {f : s → Y}
+
+lemma neBot_comap_nhds (hs : Dense s) (x : X) : ((𝓝 x).comap ((↑) : s → X)).NeBot := by
+  refine comap_neBot fun t ht ↦ ?_
+  obtain ⟨y, hy⟩ := hs.inter_nhds_nonempty ht
+  use ⟨y, Set.mem_of_mem_inter_left hy⟩
+  exact Set.mem_of_mem_inter_right hy
```
Comment (RemyDegenne) [inline BrownianMotion/Auxiliary/Topology.lean:14]: Would [IsDenseInducing.comap_nhds_neBot](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/DenseEmbedding.html#IsDenseInducing.comap_nhds_neBot) help here? (together with [Dense.isDenseInducing_val](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/DenseEmbedding.html#Dense.isDenseInducing_val))

Comment (RemyDegenne) [inline BrownianMotion/Auxiliary/Topology.lean:14]:
```suggestion
lemma neBot_comap_nhds (hs : Dense s) (x : X) : ((𝓝 x).comap ((↑) : s → X)).NeBot :=
  hs.isDenseInducing_val.comap_nhds_neBot _
```
